US04870082
Preparation of benzoic acid (2-quinolinylmethylene)hydrazide, Compound 8
A mixture of 4.08 gm (0.03 mole) of benzhydrazide, 4.72 gm (0.03 mole) of 2-quinolinecarboxaldehyde and 100 ml of absolute ethanol is refluxed 4 hr. The hot solution is filtered and cooled slowly to room temperature. The mixture is chilled. The crystals which separate are collected, washed with ether and dried to give 4.06 gm (50%) of the title compound having a melting point of 170.7° C.

reactant | benzhydrazide | 0.03 mole, 4.08 gm | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | 2-quinolinecarboxaldehyde | 0.03 mole, 4.72 gm | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | benzoic acid (2-quinolinylmethylene)hydrazide | 4.06 gm, 50% | N1=C(C=CC2=CC=CC=C12)C=NNC(C1=CC=CC=C1)=O | C17H13N3O
